US07288537B2
A suspension of 3-(4-fluoro-phenoxy)-azetidine hydrochloride (0.049 g, 0.24 mmol) in acetonitrile (1.0 ml) is treated with the crude N-(3-bromo-propyl)-3-cyano-benzenesulfonamide (0.072 g) in acetonitrile (1.0 ml) and triethylamine (0.1 ml, 0.72 mmol). The resulting homogenous reaction mixture is stirred at ambient temperature for 70 hours, the solvent evaporated and the residue partitioned between ethylacetate and aqueous NaHCO3 solution. The ethylacetate phase is washed with brine, dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution ethylacetate) to afford 3-cyano-N-{3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propyl}-benzenesulfonamide. [MH]+ 390.

reactant | 3-(4-fluoro-phenoxy)-azetidine hydrochloride | 0.24 mmol, 0.049 g | Cl.FC1=CC=C(OC2CNC2)C=C1
reactant | N-(3-bromo-propyl)-3-cyano-benzenesulfonamide | 0.072 g | BrCCCNS(=O)(=O)C1=CC(=CC=C1)C#N | C10H11BrN2O2S
reactant | triethylamine | 0.72 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
product | 3-cyano-N-{3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propyl}-benzenesulfonamide | C(#N)C=1C=C(C=CC1)S(=O)(=O)NCCCN1CC(C1)OC1=CC=C(C=C1)F | C19H20FN3O3S
